US07071182B2
2-(5-{[(4-methylphenyl)thio]acetyl}thien-2-yl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and [5-(2-p-tolylsulfanyl-acetyl)-thiophen-2-yl]-acetic acid were processed to provide the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.82 (m, 2 H), 1.98 (m, 2 H), 2.25 (s, 3 H), 3.02 (m, 2 H), 3.52 (m, 2 H), 3.70 (q, J=5.80 Hz, 2 H), 4.05 (s, 2 H), 4.41 (s, 2 H), 4.68 (t, J=6.26 Hz, 2 H), 7.12 (m, 4 H), 7.26 (m, 2 H), 7.74 (m, 1 H), 7.94 (m, 1 H), 8.11 (s, 1 H), 8.27 (s, 1 H), 9.56 (br s, N H); MS (DCI/NH3) m/z 519 (M+H)+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | [5-(2-p-tolylsulfanyl-acetyl)-thiophen-2-yl]-acetic acid | C1(=CC=C(C=C1)SCC(=O)C1=CC=C(S1)CC(=O)O)C | C15H14O3S2
product | 2-(5-{[(4-methylphenyl)thio]acetyl}thien-2-yl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]acetamide | CC1=CC=C(C=C1)SCC(=O)C1=CC=C(S1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C28H30N4O2S2
